US04659717
B. Preparation of 1,4-dihydro-2,6-dimethyl-4-(6-nitrobenzo[b]thien-3-yl]-3,5-pyridinedicarboxylic acid, diethyl ester.
Following the procedure of Example 16C, 0.5 g of 6-nitrobenzo[b]thiophene-3-carboxaldehyde and 0.7 g of ethyl 3-aminocrotonate were reacted to provide 0.4 g of the desired title product, m.p. 191°-194° C.

reactant | 6-nitrobenzo[b]thiophene-3-carboxaldehyde | 0.5 g | [N+](=O)([O-])C=1C=CC2=C(SC=C2C=O)C1 | C9H5NO3S
reactant | ethyl 3-aminocrotonate | 0.7 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | 1,4-dihydro-2,6-dimethyl-4-(6-nitrobenzo[b]thien-3-yl]-3,5-pyridinedicarboxylic acid, diethyl ester | 0.4 g | CC=1NC(=C(C(C1C(=O)OCC)C=1C2=C(SC1)C=C(C=C2)[N+](=O)[O-])C(=O)OCC)C | C21H22N2O6S
